2102-08-11 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-8-10**] 02:01 PM
 BLOOD CULTURED - At [**2102-8-10**] 04:30 PM
   - Pressors were D/C
ed and patient given 2 500cc bolus for MAP of 48,
   52. Pressors stopped at 5 am and has been stable.
   No complaints of cp/SOB/n/v/fever/chills.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-8-10**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-11**] 05:12 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-8-10**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-8-11**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-11**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 77 (59 - 100) bpm
   BP: 100/56(66) {86/37(48) - 134/94(100)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 97%
   Wgt (current): 109 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 21 (9 - 21)mmHg. Most CVP range around 11.
   Total In:
                                                                 13,861 mL
                                                                    517 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
                                                                  6,911 mL
                                                                    517 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                    390 mL
   Urine:
                                                                  2,740 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,696 mL
                                                                    127 mL
   Respiratory support
   SpO2: 95% on RA
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD, RIJ site c/d/i
   Lungs: Bibasilar crackles, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: Diffuse erythemaous scaly plaques sparing palms, soles and face
   Labs / Radiology
   349 K/uL
   8.6 g/dL
   130 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   32 mg/dL
   105 mEq/L
   140 mEq/L
   26.9 %
   15.7 K/uL
        [image002.jpg]
                             [**2102-8-10**]  01:00 AM
                             [**2102-8-10**]  06:23 AM
                             [**2102-8-10**]  03:45 PM
                             [**2102-8-11**]  06:22 AM
   WBC
   29.8
   29.0
   15.7
   Hct
   29.7
   29.1
   26.9
   Plt
   429
   434
   349
   Cr
   1.8
   1.4
   1.1
   Glucose
   125
   141
   130
   Other labs: PT / PTT / INR:13.6/26.4/1.2, ALT / AST:[**9-29**], Alk Phos / T
   Bili:92/0.8, Differential-Neuts:94.2 %, Band:0.0 %, Lymph:4.1 %,
   Mono:1.5 %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL,
   LDH:177 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Culture:
   Urine ([**8-9**]): GNR with 10,000-100,000 colonies
   Blood ([**8-9**], [**8-10**]): no growth to date
   OSH cultures reported GPC: need to f/u
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
   This is a 64 yo female with a history of pustular psoriasis here with
   septic shock.
   .
   # Septic shock:  Currently stable without any pressor requirements.
   Upon presentation, patient met SIRS criteria (temp, HR, WBC) with
   suspected source psoriasis flare with superinfection.  Other possible
   infectious etiologies include urinary source.  Of note, acute
   generalized pustular psoriasis in it of itself can cause a similar
   presentation of acute inflammatory response.
   - IV fluids to goal CVP 8-12
   - IV fluid boluses and Levophed to maintain MAP > 65 and UOP > 30cc/hr
   - Check mix venous sat if < 70%, transfuse for Hct > 30
   - Vanc (started [**8-10**]) for empric coverage of skin flora
   - Zosyn (started [**8-10**]) for GN coverage given UTI with plans to narrow
   coverage pending cultures
   - f/u culture data from OSH and [**Hospital1 19**]
   - Cont OSH CVL for now. Need to keep for access.
   .
   # Acute eruption of Pustular psoriasis: Per dermatology note, feel that
   this is more consistent with pustular psoriasis flare with
   superinfection than generalized pustular psoriasis.
   - Need to obtain Soriatane 50.
   - Prednisone 10 mg daily (started [**8-10**])
   - Continue Clobetasol
   - Continue Morphine PRN for pain
   - Wound care per dermatology recommendations
   .
   UTI: growing GNR in urine.
   --Follow speciation
   --On Zosyn (started [**8-10**])
   # Acute renal failure: Acute renal failure, resolved.  Likely [**2-13**] ATN
   in setting of hypotension/sepsis.
   - Continue to trend Cr
   .
   # Hypertension:
   - Hold antihypertensives in acute setting
   ICU Care
   Nutrition: Regular. NS@100 cc/hr
   Glycemic Control: n/a
   Lines: right CVL (placed at OSH)
   Multi Lumen - [**2102-8-10**] 12:11 AM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Code status: Full code
   Disposition: pending hemodynamic stability. Will re-assess in PM.
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  64F pustular psoriasis and htn p/w
   hypotension / shock and ARF concerning for sepsis or [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 9140**]
   syndrome with capillary leak and hypovolemia in the setting of
   fulminant psoriatic flare. She was weaned off pressors at 5 am.
   PE: 99, HR 70-100  BP 130/60 RR 20  Sat 95% RA  cvp 12
   Alert F, NAD, b/b rales, RR, + BS, soft, extensive scaly erythematous
   rash over entire body, sparing palms and soles
   Labs notable for: cr  3--->1.0 wbc 16, hct 27 lactate 1.2, u/a pos,
   lfts wnl
   Bl cx--> gpc [**2-15**], urine with GNR
   Hypotension / shock concerning for sepsis (UTI, superinfection of
   psoriatic rash) or [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 9140**] syndrome with capillary leak and
   hypovolemia in the setting of fulminant psoriatic flare. Agree with
   plan to continue vanco/zosyn following pending cx data.  She is now off
   pressors with normalization of lactate, resolution of her ARF and
   continued adequate u/o.  Would continue maintenance fluids as she has
   significant insensible losses due to skin involvement, though she is
   tolerating Pos.  Would bolus additionally as needed to maintain cvp >
   10, MAP > 60 if BP falls. Given her extensive rash/skin involvement
   would leave her current OSH IJ in place for now, rather than resite. As
   rash heals, would obtain PIVs or picc.  Derm input is appreciated.  We
   await bx results and continue retinoic acid derivative (just now
   available), topical rx and prednisone. Following lfts and lipids. As
   she is recently off pressors, would continue to hold home antihtn
   medication, monitoring BP off pressors. Remainder of plan as outlined
   in resident note.
   Critically ill
   Time spent 50
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2102-8-11**] 03:52 PM ------

2102-08-12 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-8-11**] 02:00 PM
   --has intermittent chest pain lasting for 10 mins. Reproducible on left
   side of chest. Does not radiate. No assoc. symptoms. EKG unchanged.
   --Has pruritis post-Soriatane. Takes Benadryl at home. Given Benadryl.
   --Also has verbal slurring post Soriatane, says normal.
   --Low UOP shifts, so given 500cc NS boluses and increased IVF from
   100-->200cc/hr. Low UOP in the setting of CVP=[**12-26**], HR: 50-60, and
   SBP: 130-140.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-11**] 02:00 PM
   Vancomycin - [**2102-8-11**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-8-11**] 08:05 AM
   Morphine Sulfate - [**2102-8-11**] 04:04 PM
   Heparin Sodium (Prophylaxis) - [**2102-8-12**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-12**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 59 (53 - 84) bpm
   BP: 157/98(111) {102/44(56) - 157/98(111)} mmHg
   RR: 21 (9 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 109 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 17 (11 - 17)mmHg
   Total In:
                                                                  5,376 mL
                                                                  2,168 mL
   PO:
                                                                  1,740 mL
   TF:
   IVF:
                                                                  3,636 mL
                                                                  2,168 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    144 mL
   Urine:
                                                                  1,105 mL
                                                                    144 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,271 mL
                                                                  2,024 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96% RA
   ABG: ///23/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD, RIJ site c/d/i
   Lungs: Bibasilar crackles, mild expiratory wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: Diffuse erythemaous scaly plaques sparing palms, soles and face.
   Improved
   Labs / Radiology
   315 K/uL
   7.9 g/dL
   121 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   24 mg/dL
   107 mEq/L
   140 mEq/L
   24.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2102-8-10**]  01:00 AM
                             [**2102-8-10**]  06:23 AM
                             [**2102-8-10**]  03:45 PM
                             [**2102-8-11**]  06:22 AM
                             [**2102-8-12**]  03:10 AM
   WBC
   29.8
   29.0
   15.7
   12.2
   Hct
   29.7
   29.1
   26.9
   24.0
   Plt
   429
   434
   349
   315
   Cr
   1.8
   1.4
   1.1
   1.0
   1.1
   Glucose
   125
   141
   130
   138
   121
   Other labs: PT / PTT / INR:13.9/25.9/1.2, ALT / AST:[**9-29**], Alk Phos / T
   Bili:92/0.8, Differential-Neuts:94.2 %, Band:0.0 %, Lymph:4.1 %,
   Mono:1.5 %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL,
   LDH:177 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Urine lytes:
   Una: 10
   Cr: 136
   FeNa: 0.1
   Culture:
   Urine ([**8-9**]): GNR in the urine, no speciation
   Blood ([**8-9**], [**8-10**]): no growth to date
   OSH culture date, awaitng sensitivities and more information:
   Blood (2 of four bottles): Staph aureus
   Urine: Klebsiella, pan-sensitive
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
   This is a 64 yo female with a history of pustular psoriasis here with
   septic shock.
   .
   # Septic shock:  Resolved, hemodynamially stable. Currently stable
   without any pressor requirements. Upon presentation, patient met SIRS
   criteria (temp, HR, WBC) with suspected source psoriasis flare with
   superinfection.  Other possible infectious etiologies include urinary
   source.  Of note, acute generalized pustular psoriasis in it of itself
   can cause a similar presentation of acute inflammatory response.
   - IV fluids to goal CVP 8-12
   - IV fluid boluses and Levophed to maintain MAP > 65 and UOP > 30cc/hr
   - Check mix venous sat if < 70%, transfuse for Hct > 30
   - Vanc (started [**8-10**]) for empric coverage of skin flora
   - Cipro (coverage since [**8-10**]) for Klebsiella coverage
   - f/u culture data from OSH and [**Hospital1 19**]
   - Cont OSH CVL for now. Need to keep for access.
   .
   # Acute eruption of Pustular psoriasis: Per dermatology note, feel that
   this is more consistent with pustular psoriasis flare with
   superinfection than generalized pustular psoriasis.  Had slurred
   speech, flushing and pruritic reaction post-Soriatane. Says normal for
   her.
   - Continue  Soriatane 50. f/u with derm about soriatane side effects
   before next dose.
   - Prednisone 10 mg daily (started [**8-10**])
   - Continue Clobetasol
   - Continue Morphine PRN for pain
   - Wound care per dermatology recommendations
   .
   Staph aureus in blood: On vanco
   --Continue Vanco and f/u on Osh sensitivities
   --Will check TTE for endocarditis.
   UTI: growing GNR in urine. Pan sensitive Klebsiella from OSH
   --Follow speciation at [**Hospital1 19**].
   --On Cipro (started [**8-10**])
   # Acute renal failure: Initially,  likely [**2-13**] ATN in setting of
   hypotension/sepsis.  Had low UOP despite boluses. Increase in Cr today
   from 1.1
   - Increase maintainence fluids to NS @200 cc/hr.
   - Consider collod>crystalloid.
   - Continue to trend Cr
   .
   # Hypertension:
   - Hold antihypertensives in acute setting
   ICU Care
   Nutrition: Regular. NS@200 cc/hr
   Glycemic Control: n/a
   Lines: right CVL (placed at OSH)
   Multi Lumen - [**2102-8-10**] 12:11 AM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Code status: Full code
   Disposition: pending hemodynamic stability. Will re-assess in PM.
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 8880**]
s note and agree
   with his findings and plan of care.  Mrs [**Known lastname 9174**] today looks and feels
   quite well.  Hemodymically she is essentially normal, except for U.O of
   only 30cc/hr which we attribute to excess loss of insensible fluid via
   her inflamed skin.  We will give more IV fluid and blood (Hct only 24)
   to improve what we believe to still be some intravascular volume
   depletion.
   Her psoriasis is much improved with high potency topical steroids under
   occlusion and po prednisone.  We will consult with derm about the
   patient
s slurring of words upon taking Soriatane, to be sure it is
   safe continuing it.
   Her septic shock was likely from staph aureus bacteremia from her
   psoriasis and from a Klebsiella UTI.  We will await final idenfication
   of the organisms and their sensitivities before deciding if a singly
   antibiotic can be used to Rx both infections.  A TTE has been ordered
   to insure there is no evidence of endocarditis.
   If patient continues to look this well, she can be transferred to the
   floor this evening or tomorrow morning.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2102-8-12**] 02:31 PM ------

2102-08-13 08:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --talked to Dr. [**Last Name (STitle) 9182**] (derm) said it was ok to give soriatane if not
   hypocalcemic.  Corrected Ca 8.9
   --OSH cx growing [**Last Name (STitle) 336**], started on nafcillin 2g IV q6h
   --transfused 1 unit PRBCs for HCT 24
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-11**] 02:00 PM
   Vancomycin - [**2102-8-12**] 08:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-8-12**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2102-8-13**] 12:00 AM
   Morphine Sulfate - [**2102-8-13**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-13**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 61 (50 - 71) bpm
   BP: 141/76(92) {123/49(67) - 170/106(118)} mmHg
   RR: 17 (2 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109 kg (admission): 99.5 kg
   Height: 65 Inch
    CVP: 15 (15 - 27)mmHg
   Total In:
                                                                  7,365 mL
                                                                    223 mL
   PO:
                                                                    720 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  6,369 mL
                                                                    103 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                    738 mL
                                                                    370 mL
   Urine:
                                                                    738 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,627 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///19/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD, RIJ site c/d/i
   Lungs: Bibasilar crackles, mild expiratory wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: Diffuse erythemaous scaly plaques sparing palms, soles and face.
   Improved
   Labs / Radiology
   357 K/uL
   9.3 g/dL
   113 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.1 mEq/L
   28 mg/dL
   109 mEq/L
   141 mEq/L
   27.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2102-8-10**]  01:00 AM
                             [**2102-8-10**]  06:23 AM
                             [**2102-8-10**]  03:45 PM
                             [**2102-8-11**]  06:22 AM
                             [**2102-8-12**]  03:10 AM
                             [**2102-8-13**]  04:52 AM
   WBC
   29.8
   29.0
   15.7
   12.2
   14.9
   Hct
   29.7
   29.1
   26.9
   24.0
   27.9
   Plt
   429
   434
   349
   315
   357
   Cr
   1.8
   1.4
   1.1
   1.0
   1.1
   1.5
   Glucose
   125
   141
   130
   138
   121
   113
   Other labs: PT / PTT / INR:13.9/25.9/1.2, ALT / AST:[**9-29**], Alk Phos / T
   Bili:92/0.8, Differential-Neuts:94.2 %, Band:0.0 %, Lymph:4.1 %,
   Mono:1.5 %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL,
   LDH:177 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   .
   BCx pending
   UCx 2 GNRs Klebs pan sensitive
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
   .
   This is a 64 yo female with a history of pustular psoriasis here with
   septic shock.
   .
   # Septic shock:  Resolved, hemodynamially stable. Currently stable
   without any pressor requirements. Upon presentation, patient met SIRS
   criteria (temp, HR, WBC) with suspected source psoriasis flare with
   superinfection.  Other possible infectious etiologies include urinary
   source.  Of note, acute generalized pustular psoriasis in it of itself
   can cause a similar presentation of acute inflammatory response.  OSH
   Bcx growing [**Month/Year (2) 336**].
   - IV fluids to goal CVP 8-12
   - IV fluid boluses / off Levophed since [**8-10**]
   - Check mix venous sat if < 70%, transfuse for Hct > 30
   - Changed from Vanco to Nafcillin (started [**8-12**]) for [**Last Name (LF) 336**], [**First Name3 (LF) **] treat
   for total 14d
   - f/u TTE for endocarditis.
   - Cipro (coverage since [**8-10**]) for Klebsiella coverage
   - f/u culture data from OSH and [**Hospital1 19**]
   - Cont OSH CVL for now. Need to keep for access.
   .
   # Acute eruption of Pustular psoriasis: Per dermatology note, feel that
   this is more consistent with pustular psoriasis flare with
   superinfection than generalized pustular psoriasis. Had slurred speech,
   flushing and pruritic reaction post-Soriatane. Says normal for her.
   - f/u path
   - Continue  Soriatane 50. f/u with derm about soriatane side effects
   before next dose. Benadryl prn for itching.
   - Prednisone 10 mg daily (started [**8-10**])
   - Continue Clobetasol
   - Continue Morphine PRN for pain
   - Wound care per dermatology recommendations
   .
   #UTI: growing 2 pan-[**Last Name (un) 270**] Klebs colonies in urine. Pan sensitive
   Klebsiella from OSH
   --On Cipro (started [**8-10**]), treat for 10d
   .
   # Acute renal failure: likely [**2-13**] ATN in setting of
   hypotension/sepsis.  Had low UOP despite boluses. Increase in Cr today
   from 1.0->1.5. Given maint IVF 200cc/hr, boluses, 1U prbc. Now overall
   very positive and edematous, although probably initially had high
   insens losses [**2-13**] psoriatic plaques, which are now improved.
   - Goal -1L today.
   - Continue to trend Cr
   .
   # Hypertension:
   - Hold antihypertensives in acute setting
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   PICC request since pt will need tx with nafcillin for 14 d
   Multi Lumen - [**2102-8-10**] 12:11 AM
 will d/c today
   20 Gauge - [**2102-8-12**] 02:33 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending hemodynamic stability. Will re-assess in PM.
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 347**]
s note above and I
   agree with his findings and plan of care.  She is doing very well
   indeed with continued hemodynamic stability and no evidence of
   continued sepsis.  Her bld cx is growing [**Last Name (STitle) 336**] and her urine cx growing
   2 sensitive species of Klebsiella. The plan is to Rx the former with
   nafcillin IV for 14 days, for which a PICC will be needed.  The latter
   organisms are and will be treated with Cipro.
   She
s gotten a lot of IVF for resuscitation over the past 3 days and is
   total body fluid overloaded.  She has mild SOB, CVP of 15, and even her
   mild increase in Creat we think may be due to her being on the
   descending limb of her cardiac Starling curve with decreased forward
   flow to her kidneys (vs some ATN from prior sepsis).  We will thus Rx
   with lasix today, aiming for net I/O of neg 1-2 liters today.
   We think she is stable and well enough to go to the floor, where TTE
   should be done in the next couple of days.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2102-8-13**] 05:19 PM ------